US05248810
Benzyl 8,8-difluoro-7-methyl-7-octenoate
123 ml (0.68 mol) Tris(dimethylamino)phosphine in 100 ml diglyme was added slowly dropwise to a solution of 26.3 ml (0.34 mol) dibromodifluoromethane in 800 ml diglyme. After stirring for one hour on an ice bath, 43 g (0.17 mol}benzyl 7-oxooctanoate in 100 ml diglyme was slowly added dropwise. The ice bath was removed and the reaction mixture stirred for 40 minutes at room temperature, poured into 1 liter ice-water and extracted with ether. The ether phase was washed twice with water, dried over sodium sulphate, filtered and concentrated. The residue was purified by column chromatography (silica gel hexane/ether=3:1)

reactant | Tris(dimethylamino)phosphine | 0.68 mol, 123 ml | CN(C)P(N(C)C)N(C)C | C6H18N3P
reactant | dibromodifluoromethane | 0.34 mol, 26.3 ml | BrC(F)(F)Br | CBr2F2
reactant | benzyl 7-oxooctanoate | 0.17 mol | O=C(CCCCCC(=O)OCC1=CC=CC=C1)C | C15H20O3
solvent | diglyme | 100 ml | COCCOCCOC | C6H14O3
solvent | diglyme | 800 ml | COCCOCCOC | C6H14O3
solvent | diglyme | 100 ml | COCCOCCOC | C6H14O3
product | Benzyl 8,8-difluoro-7-methyl-7-octenoate | FC(=C(CCCCCC(=O)OCC1=CC=CC=C1)C)F | C16H20F2O2
